US08536183B2
(2S)-1-[(4-Chlorophenyl)sulfonyl]-2-methylpiperazine hydrochloride
1,1-Dimethylethyl (3S)-4-[(4-chlorophenyl)sulfonyl]-3-methyl-1-piperazinecarboxylate (may be prepared as described in Description 3) (crude weight 24.14 g, theoretical 49.9 mmol) was suspended in 4M HCl in 1,4-dioxane (80 mL, excess) and stirred vigorously for 3 hours. The sample was evaporated, suspended in diethyl ether (100 mL) and filtered through a sinter. The collected solid was dried under vacuum at 40° C. for 18 hours to yield the title compound as a yellow solid (15.45 g).

reactant | 1,1-Dimethylethyl (3S)-4-[(4-chlorophenyl)sulfonyl]-3-methyl-1-piperazinecarboxylate | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C | C16H23ClN2O4S
solvent | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | (2S)-1-[(4-Chlorophenyl)sulfonyl]-2-methylpiperazine hydrochloride | 15.45 g | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CNCC1)C | InChI=1S/C11H15ClN2O2S.ClH/c1-9-8-13-6-7-14(9)17(15,16)11-4-2-10(12)3-5-11;/h2-5,9,13H,6-8H2,1H3;1H/t9-;/m0./s1
